* C:\Users\LeeFE\Desktop\Bruxism_Biofeedback\sims\bioamplifier.asc
XU1 N017 N015 Vin 0 N016 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N016 N015 10k
R2 N015 N003 10k
R3 N017 N022 10k
R4 Vref N017 10k
vin Vin 0 3.3
V1 N012 N024 PWL file=C:\Users\LeeFE\Downloads\1_raw_data_13-12_22.03.16.txt\emg.txt Rser=1M
XU2 N012 N002 Vin 0 N003 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N024 N021 Vin 0 N022 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R5 N003 N002 22k
R7 N021 N022 22k
R6 N002 N021 220
XU4 Vref N006 Vin 0 N018 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU5 N019 N008 Vin 0 N009 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N006 N016 10k
R9 N007 N006 10k
R10 N008 N007 10k
R11 N009 N008 10k
R12 N019 N006 10k
D1 N007 N018 D
D2 N018 N019 D
XU6 N023 N004 Vin 0 N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R13 N004 Vref 10k
R14 N005 N004 100k
C1 N005 N004 5µ
R15 N023 N009 100k
C2 0 N023 5µ
XU7 N014 N010 Vin 0 N011 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R16 N011 N010 100k
R17 N010 0 10k
XU8 N020 N013 Vin 0 N014 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R18 N020 N005 10k
R19 N014 N013 10k
R20 0 N020 10k
R21 Vref N013 10k
XU9 N001 Vref Vin 0 Vref level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R22 Vin N001 10k
R23 N001 0 10k
.model D D
.lib C:\Users\LeeFE\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 40 5 0.002
* Inverting difference amplifier with offset.\nBased off INA118 IC
* Trim offset with a Pot and opamp for ref
* Precision Rectifier
* Low Pass filter with optional gain
* https://www.youtube.com/watch?v=TMr25ouvpD4\nhttps://www.ti.com/lit/an/sboa294/sboa294.pdf?ts=1729244403221&ref_url=https%253A%252F%252Fwww.google.com%252F
* Difference Subtractor to remove DC offset
* Variable Gain circuit for output
.lib UniversalOpAmp1.lib
.backanno
.end
